US09388189B2
(S)—N-(5-(4-Amino-6-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)pyrimidin-5-yl)pyridin-3-yl)-3-methoxybenzamide
To a solution of (S)-2-(1-((6-amino-5-bromopyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one (100 mg, 0.23 mmol) were added (5-(3-methoxybenzamido)pyridin-3-yl)boronic acid (120 mg, 0.34 mmol), 1,1′-bis(diphenylphosphino)ferrocene-palladium(II)dichloride dichloromethane complex (19 mg, 0.02 mmol) and 148 μl of a 2M aqueous solution of cesium carbonate in dioxane (2 ml). The mixture was stirred under argon atmosphere at 100° C. for 18 hours and then diluted with ethyl acetate. The resulting solution was washed with water and brine, dried over magnesium sulphate, filtered and the solvents were removed under reduced pressure. The crude was purified by flash chromatography (50 to 100%, hexane-ethyl acetate) phase using SP1® Purification System to give 113 mg (85% yield) of the title compound as a white solid. Purity 100%.

reactant | (S)-2-(1-((6-amino-5-bromopyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 0.23 mmol, 100 mg | NC1=C(C(=NC=N1)N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)C)Br | C19H18BrN7O
reactant | (5-(3-methoxybenzamido)pyridin-3-yl)boronic acid | 0.34 mmol, 120 mg | COC=1C=C(C(=O)NC=2C=C(C=NC2)B(O)O)C=CC1 | C13H13BN2O4
reactant | cesium carbonate | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dioxane | 2 ml | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (S)—N-(5-(4-Amino-6-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)pyrimidin-5-yl)pyridin-3-yl)-3-methoxybenzamide | 113 mg, 85% yield | NC1=NC=NC(=C1C=1C=C(C=NC1)NC(C1=CC(=CC=C1)OC)=O)N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)C | C32H29N9O3
